US04271068
(11) Z-Asn-Leu-OMe
A solution of 16.7 g of H-Leu-OMe and 46.0 g of Z-Asn-ONP in 100 ml of freshly distilled dimethylformamide is kept for 19 hours at 25° C., then 1.2 litres of water are added and the crystalline precipitate is suctioned off. The dipeptide derivative is dried under vacuum at 40° C. and then twice recrystallized from aqueous methanol. It melts at 180°-181° C. Optical rotation [α]D20 =+9° (c=2.05 in chloroform).

reactant | H-Leu-OMe | 16.7 g | N[C@@H](CC(C)C)C(=O)OC | C7H15NO2
reactant | Z-Asn-ONP | 46.0 g | C1=CC=C(C=C1)COC(=O)N[C@@H](CC(=O)N)C(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C18H17N3O7
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 1.2 litres | O | H2O
product | Z-Asn-Leu-OMe | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C19H27N3O6
